US08138205B2
Sulfuric acid (1 mL) was added dropwise to a solution of methyl 2-amino-3-(cyclopropylmethoxy)-4-methoxybenzoate (98%, 187 g, 0.73 mol) and acetic anhydride (372 g, 3.65 mol). The reaction was warmed at 30° C. overnight, quenched with water/ice (1.5 L), and then stirred vigorously for 30 min. The resulting solids were collected by filtration and dried in an oven to give 140 g of methyl 2-acetamido-3-(cyclopropylmethoxy)-4-methoxybenzoate as a white solid. MS (ESI): 293.9.

reactant | Sulfuric acid | 1 mL | S(O)(O)(=O)=O | H2O4S
reactant | methyl 2-amino-3-(cyclopropylmethoxy)-4-methoxybenzoate | 0.73 mol, 187 g | NC1=C(C(=O)OC)C=CC(=C1OCC1CC1)OC | C13H17NO4
reactant | acetic anhydride | 3.65 mol, 372 g | C(C)(=O)OC(C)=O | C4H6O3
product | methyl 2-acetamido-3-(cyclopropylmethoxy)-4-methoxybenzoate | 140 g | C(C)(=O)NC1=C(C(=O)OC)C=CC(=C1OCC1CC1)OC | C15H19NO5
